US06329405B1
(65a) N-[1-(3,5-Difluorophenyl)ethyl]-N-[(4-ethoxyphenyl)-(3-nitrophenyl)methyl]amine
Following a similar procedure to that described in Example (1a), 1.0 g of 4-ethoxyphenyl 3-nitrophenyl ketone, 1.16 g of 1-(3,5-difluorophenyl)ethylamine, 2.01 ml of triethylamine, 0.49 ml of titanium tetrachloride, 975 mg of sodium cyanoborohydride and 0.32 ml of acetic acid were reacted, to obtain 1.41 g of the title compound as a yellow oil.

reactant | 4-ethoxyphenyl 3-nitrophenyl ketone | 1.0 g | [N+](=O)([O-])C=1C=C(C=CC1)C(=O)C1=CC=C(C=C1)OCC | C15H13NO4
reactant | 1-(3,5-difluorophenyl)ethylamine | 1.16 g | FC=1C=C(C=C(C1)F)C(C)N | C8H9F2N
reactant | triethylamine | 2.01 ml | C(C)N(CC)CC | C6H15N
reactant | sodium cyanoborohydride | 975 mg | C(#N)[BH3-].[Na+]
catalyst | titanium tetrachloride | 0.49 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | acetic acid | 0.32 ml | C(C)(=O)O | C2H4O2
product | N-[1-(3,5-Difluorophenyl)ethyl]-N-[(4-ethoxyphenyl)-(3-nitrophenyl)methyl]amine | 1.41 g | FC=1C=C(C=C(C1)F)C(C)NC(C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=C(C=C1)OCC | C23H22F2N2O3
